US08492378B2
N-[4-[5-[(3-fluorobenzyl)thio]-1,3,4-oxadiazol-2-yl]pyridin-2-yl]-3-phenylpropionamide
To a solution of 4-[5-[(3-fluorobenzyl)thio]-1,3,4-oxadiazol-2-yl]pyridin-2-amine (360 mg, 1.19 mmol) and triethylamine (290 mg, 2.86 mmol) in tetrahydrofuran (30 mL) was added 3-phenylpropionyl chloride (482 mg, 2.86 mmol) at 0° C., and the resulting mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=95/5-0/100) and recrystallized from hexane/ethyl acetate to give the title compound (205 mg, yield 40%) as colorless crystals.

reactant | 4-[5-[(3-fluorobenzyl)thio]-1,3,4-oxadiazol-2-yl]pyridin-2-amine | 1.19 mmol, 360 mg | FC=1C=C(CSC2=NN=C(O2)C2=CC(=NC=C2)N)C=CC1 | C14H11FN4OS
reactant | triethylamine | 2.86 mmol, 290 mg | C(C)N(CC)CC | C6H15N
reactant | 3-phenylpropionyl chloride | 2.86 mmol, 482 mg | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-[5-[(3-fluorobenzyl)thio]-1,3,4-oxadiazol-2-yl]pyridin-2-yl]-3-phenylpropionamide | 205 mg, yield 40% | FC=1C=C(CSC2=NN=C(O2)C2=CC(=NC=C2)NC(CCC2=CC=CC=C2)=O)C=CC1 | C23H19FN4O2S
